US05098996
N-t-Butyloxycarbonyl p-hydroxymethylbenzoylaminoethylamine.
p-Hydroxymethylbenzoylaminoethylamine acetate (0.30 g, 1.2 mmol) in methanol was treated with di-t-butyloxycarbonyl dicarbonate (0.38 g, 1.8 mmol). The solvent was evaporated, and the residue was dissolved in ether. The ether solution containing the product was filtered and reduced in volume leaving a white solid, which was removed by filtration and washed with petroleum ether. Yield 0.34 g (99%). Mp 117°-119°.

reactant | p-Hydroxymethylbenzoylaminoethylamine acetate | 1.2 mmol, 0.30 g | C(C)(=O)O.OCC1=CC=C(C(=O)NCCN)C=C1
solvent | methanol | CO | CH4O
product | N-t-Butyloxycarbonyl p-hydroxymethylbenzoylaminoethylamine | C(C)(C)(C)OC(=O)NCCNC(C1=CC=C(C=C1)CO)=O | C15H22N2O4
